US09447091B2
g) N-(5-(2-amino-4-bromophenylamino)-2′,4′-difluorobiphenyl-3-yl)acetamide
To a solution of N-(5-(4-bromo-2-nitrophenylamino)-2′,4′-difluorobiphenyl-3-yl)acetamide (3.2 g, 6.92 mmol) in THF (30 ml) were added a solution of ammonium chloride (3.7 g, 69.22 mmol, 10 eq.) in water (15 ml) and zinc (4.53 g, 69.22 mmol, 10 eq.). The mixture was stirred at RT for 6 h and filtered. The filtrate was diluted with water and extracted as in Example 1(d). The solvent was distilled off under reduced pressure to afford the product in 87% yield (2.6 g).

reactant | N-(5-(4-bromo-2-nitrophenylamino)-2′,4′-difluorobiphenyl-3-yl)acetamide | 6.92 mmol, 3.2 g | BrC1=CC(=C(C=C1)NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)NC(C)=O)[N+](=O)[O-] | C20H14BrF2N3O3
reactant | ammonium chloride | 69.22 mmol, 3.7 g, 10 eq. | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
catalyst | zinc | 69.22 mmol, 4.53 g, 10 eq. | [Zn] | Zn
product | N-(5-(2-amino-4-bromophenylamino)-2′,4′-difluorobiphenyl-3-yl)acetamide | 87% yield | NC1=C(C=CC(=C1)Br)NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)NC(C)=O | C20H16BrF2N3O
